US08133909B2
(2,3-Dihydro-benzofuran-5-yl)-[2-(5-trifluoromethyl-pyridin-2-yl)-ethyl]-amine
In analogy to the procedure described for the synthesis example 71 (step 1), the title compound (2,3-dihydro-benzofuran-5-yl)-[2-(5-trifluoromethyl-pyridin-2-yl)-ethyl]-amine (MS m/e: 309.0 [M+H]+) was prepared from 5-bromo-2,3-dihydro-1-benzofuran instead of 6-bromo-2,3-dihydro-benzofuran and 2-(5-trifluoromethyl-pyridin-2-yl)-ethylamine instead of 2-(6-trifluoromethyl-pyridin-3-yl)-ethylamine.

reactant | 5-bromo-2,3-dihydro-1-benzofuran | BrC=1C=CC2=C(CCO2)C1 | C8H7BrO
reactant | 2-(5-trifluoromethyl-pyridin-2-yl)-ethylamine | FC(C=1C=CC(=NC1)CCN)(F)F | C8H9F3N2
product | (2,3-dihydro-benzofuran-5-yl)-[2-(5-trifluoromethyl-pyridin-2-yl)-ethyl]-amine | O1CCC2=C1C=CC(=C2)NCCC2=NC=C(C=C2)C(F)(F)F | C16H15F3N2O
